US06686363B2
To a solution of t-butyl 2-fluoro-4-nitrophenylacetate (11.3 g) in dimethyl sulfoxide (70 mL) was added bis(dimethylamino)methane (6.80 g) and acetic anhydride (14.9 g) at room temperature, and the mixture was stirred at the same temperature for 30 min. The mixture was poured to water, and the mixture was extracted with toluene. The organic extracts were washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo. Flash chromatography (silica, hexane:ethyl acetate=9:1) of the residue gave t-butyl 2-(2-fluoro-4-nitrophenyl)acrylate. To a solution of the above t-butyl 2-(2-fluoro-4-nitrophenyl)acrylate and trimethylsulfoxonium iodide (11.7 g) in dimethyl sulfoxide (70 mL) was added potassium t-butoxide (5.96 g) at room temperature, and the mixture was stirred at the same temperature for 1 hour. After quenching the reaction by the addition of 5% hydrochloric acid, the mixture was extracted with ethyl acetate. The organic extracts were washed with 3% sodium thiosulfate solution and brine, dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo. Flash chromatography (silica, hexane:ethyl acetate=9:1) of the residue gave t-butyl 1-(2-fluoro-4-nitrophenyl)cyclopropane-1-carboxylate. MS (EI+) m/z: 281 (M+).

reactant | t-butyl 2-(2-fluoro-4-nitrophenyl)acrylate | FC1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OC(C)(C)C)=C | C13H14FNO4
reactant | trimethylsulfoxonium iodide | 11.7 g | [I-].C[S+](=O)(C)C
reactant | potassium t-butoxide | 5.96 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 70 mL | CS(=O)C | C2H6OS
product | t-butyl 1-(2-fluoro-4-nitrophenyl)cyclopropane-1-carboxylate | FC1=C(C=CC(=C1)[N+](=O)[O-])C1(CC1)C(=O)OC(C)(C)C | C14H16FNO4
